US07279469B2
To a solution of N-(3-morpholin-4-yl-phenyl)-hydrazinecarboxylic acid tert-butyl ester (468 mg, 1.60 mmol) in methanol (20 mL) was added a solution of 4 N HCl in dioxane (10 mL). The mixture was stirred at room temperature overnight, then concentrated to give (3-morpholin-4-yl-phenyl)-hydrazine 3 HCl salt (484 mg, 100%) as a yellow solid. MS (ES+): m/z=194.1; 1H NMR (CD3OD, 500 MHz): δ 3.60-3.71 (m, 4H), 4.06-4.15 (m, 4H), 7.06 (d, 1H), 7.26-7.35 (m, 2H), 7.50-7.58 (m, 1H).

reactant | N-(3-morpholin-4-yl-phenyl)-hydrazinecarboxylic acid tert-butyl ester | 1.60 mmol, 468 mg | C(C)(C)(C)OC(=O)N(N)C1=CC(=CC=C1)N1CCOCC1 | C15H23N3O3
reactant | HCl | 4 N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (3-morpholin-4-yl-phenyl)-hydrazine 3 HCl salt | 484 mg, 100% | Cl.Cl.Cl.N1(CCOCC1)C=1C=C(C=CC1)NN | InChI=1S/C10H15N3O.3ClH/c11-12-9-2-1-3-10(8-9)13-4-6-14-7-5-13;;;/h1-3,8,12H,4-7,11H2;3*1H
